US08138181B2
Step D: Preparation of tert-butyl trans-3-fluoro-4-(2-(7-(pyridin-3-yl)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)piperidine-1-carboxylate:
A mixture of 2-(7-(pyridin-3-yl)imidazo[1,2-a]pyridin-3-yl)quinolin-8-ol (30.2 mg, 0.089 mmol), tert-butyl cis-3-fluoro-4-(methylsulfonyloxy)piperidine-1-carboxylate (39.8 mg, 0.134 mmol) and Cs2CO3 (43.6 mg, 0.134 mmol) in DMA (7.78 mg, 0.089 mmol) was heated to 100° C. for 1 hour. The reaction mixture was cooled to ambient temperature and diluted with water and EtOAc. The combined organic layers were dried over Na2SO4, filtered and concentrated. The residue was purified by preparative TLC, eluting with 10% MeOH 0.5% NH4OH in DCM to provide the desired product (22 mg, 46% yield).

reactant | 2-(7-(pyridin-3-yl)imidazo[1,2-a]pyridin-3-yl)quinolin-8-ol | 0.089 mmol, 30.2 mg | N1=CC(=CC=C1)C1=CC=2N(C=C1)C(=CN2)C2=NC1=C(C=CC=C1C=C2)O | C21H14N4O
reactant | tert-butyl cis-3-fluoro-4-(methylsulfonyloxy)piperidine-1-carboxylate | 0.134 mmol, 39.8 mg | F[C@@H]1CN(CC[C@@H]1OS(=O)(=O)C)C(=O)OC(C)(C)C | C11H20FNO5S
reactant | Cs2CO3 | 0.134 mmol, 43.6 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMA | 0.089 mmol, 7.78 mg | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl trans-3-fluoro-4-(2-(7-(pyridin-3-yl)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)piperidine-1-carboxylate | 22 mg, 46% yield | F[C@@H]1CN(CC[C@H]1OC=1C=CC=C2C=CC(=NC12)C1=CN=C2N1C=CC(=C2)C=2C=NC=CC2)C(=O)OC(C)(C)C | C31H30FN5O3
